US07091214B2
N4-(3-Methylsulfanylpropyl)-7-phenylquinoline-3,4-diamine (2.75 g, 8.49 mmol), trimethyl orthovalerate (1.7 g, 10 mmol), and pyridine hydrochloride (0.3 g) were dissolved in toluene (28 mL) and heated to reflux for 1.5 h, collecting the volatiles in a Dean—Stark trap. Upon cooling to room temperature, the solvent was removed under vacuum. The resulting solid was slurried in hexanes (100 mL) for 1 h and then collected by filtration to afford 3.0 g of 2-butyl-1-(3-methylsulfanylpropyl)-7-phenyl-1H-imidazo[4,5-c]quinoline.

reactant | N4-(3-Methylsulfanylpropyl)-7-phenylquinoline-3,4-diamine | 8.49 mmol, 2.75 g | CSCCCNC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)N | C19H21N3S
reactant | trimethyl orthovalerate | 10 mmol, 1.7 g | C(CCCC)(OC)(OC)OC | C8H18O3
reactant | pyridine hydrochloride | 0.3 g | Cl.N1=CC=CC=C1
solvent | toluene | 28 mL | C1(=CC=CC=C1)C | C7H8
product | 2-butyl-1-(3-methylsulfanylpropyl)-7-phenyl-1H-imidazo[4,5-c]quinoline | 3.0 g | C(CCC)C=1N(C2=C(C=NC=3C=C(C=CC23)C2=CC=CC=C2)N1)CCCSC | C24H27N3S
